US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-o-tolyloxyphenyl)-1,3-dihydroimidazol-2-one
Carbonyldiimidazole (40 mg) was added to a solution of 4-o-tolyloxyphenylamine (50 mg) in dimethylformamide (2 mL) at 0° C. After 30 minutes, (2,2-dimethoxyethyl)-[4-(2-dimethylaminoethoxy)phenyl]amine (67 mg) was added, and the mixture was heated at 80° C. for 2 hours. After cooling to room temperature, trifluoroacetic acid (0.5 mL) was added and the mixture was left to stand for 72 hours. The reaction solution was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution. The organic phase was dried and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 429.52 (C26H27N3O3); MS (ESI): 430 ([M+H]+), was obtained as hydrotrifluoroacetate in this way.

reactant | Carbonyldiimidazole | 40 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-o-tolyloxyphenylamine | 50 mg | C1(=C(C=CC=C1)OC1=CC=C(C=C1)N)C | C13H13NO
reactant | (2,2-dimethoxyethyl)-[4-(2-dimethylaminoethoxy)phenyl]amine | 67 mg | COC(CNC1=CC=C(C=C1)OCCN(C)C)OC | C14H24N2O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-o-tolyloxyphenyl)-1,3-dihydroimidazol-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=C(C=CC=C1)C)=O)C | C26H27N3O3
